US04330549
In a manner analogous to that described in Example 10, by the reaction of 1,4-dimethyl-7-hydroxy-2-oxo-1,2-dihydroquinoline with 3-(4-benzamido-piperidino)-propyl chloride in methoxyethanol, there is obtained, in a yield of 67% of theory, 7-[3-(4-benzamido-piperidino)-propoxy]-1,4-dimethyl-2-oxo-1,2-dihydroquinoline; m.p. 193°-195° C.

reactant | 1,4-dimethyl-7-hydroxy-2-oxo-1,2-dihydroquinoline | CN1C(C=C(C2=CC=C(C=C12)O)C)=O | C11H11NO2
reactant | 3-(4-benzamido-piperidino)-propyl chloride | C(C1=CC=CC=C1)(=O)NC1CCN(CC1)CCCCl | C15H21ClN2O
solvent | methoxyethanol | COC(C)O | C3H8O2
product | 7-[3-(4-benzamido-piperidino)-propoxy]-1,4-dimethyl-2-oxo-1,2-dihydroquinoline | yield of 67% | C(C1=CC=CC=C1)(=O)NC1CCN(CC1)CCCOC1=CC=C2C(=CC(N(C2=C1)C)=O)C | C26H31N3O3
